Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
Right lower extremity rest pain
 
Major Surgical or Invasive Procedure:
Bilateral lower extremity angiography with PTA and stenting of 
the right external iliac artery and superficial femoral artery

 
History of Present Illness:
___ is a ___ patient who presents for his fourth 
opinion regarding leg pain.  He was last seen at this 
institution in ___.  He underwent an angiogram for left leg 
symptoms.  Was found to have multifocal disease but it was felt 
that should not be treated.

He states that he had a CABG in ___ and did well from that 
until about ___ when he developed a walking issue he describes 
it as left greater than right when he walks he feels it in both 
calves. He also does get pain and throbbing in his right foot at 
night. He does not think he can walk more than a block.  Of note 
his ultrasound from outside institution review is consistent 
with significantly decreased ABR and close to flatline 
metatarsal and digital waveforms.
 
Past Medical History:
Past Medical History:
HLD
CAD

Past Surgical History:  
R shoulder surgery
CABG x5
RIH repair x2

 
Social History:
___
Family History:
Father MI (___)

 
Physical Exam:
Gen: Awake, alert, interactive
HEENT: Clear
Neck: Supple
CV: RRR
Pulm: Normal work of breathing on room air
Abd: Soft, non-tender, non-distended
Extremities: L groin soft covered with dry dressing; no notable 
erythema, swelling, hematoma
Neuro: Motor and sensory function in extremities grossly intact
___: R - P//D/D; L - P//D/D

 
Pertinent Results:
___ 03:59AM BLOOD WBC-7.1 RBC-3.96* Hgb-11.9* Hct-37.4* 
MCV-94 MCH-30.1 MCHC-31.8* RDW-14.2 RDWSD-48.6* Plt ___
___ 03:59AM BLOOD Glucose-105* UreaN-16 Creat-0.7 Na-142 
K-4.1 Cl-106 HCO3-24 AnGap-12
___ 03:59AM BLOOD Calcium-8.4 Phos-3.0 Mg-2.0
 
Brief Hospital Course:
Patient was admitted for observation following bilateral lower 
extremity angiography with PTA and stenting of the right 
external iliac artery and right superficial femoral artery. 
Patient was Plavix-loaded in the PACU, and continued on his home 
aspirin and statin. On POD1, patient was started on cilostazol. 
At the time of discharge on POD1, patient was HDS and doing well 
overall. He was eating and voiding without assistance, and 
ambulating/performing activities as tolerated independently. He 
will continue Plavix for 30 days. He will follow up in Vascular 
Surgery clinic with Dr. ___ in 4 weeks for discussion of 
further interventions. 
 
Medications on Admission:
asa 81 QD
atorvastatin 20 QD
vit b12 
vitamin d3
 
Discharge Medications:
1.  Cilostazol 100 mg PO BID  
2.  Clopidogrel 75 mg PO DAILY Duration: 30 Days  
3.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
4.  Aspirin 81 mg PO DAILY  
5.  Atorvastatin 20 mg PO QPM  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Right lower extremity rest pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure taking care of you at ___ 
___.  You were admitted to the hospital after a 
peripheral angiogram.   To do the test, a small puncture was 
made in one of your arteries.  The puncture site heals on its 
own: there are no stitches to remove.   You tolerated the 
procedure well and are now ready to be discharged from the 
hospital.   Please follow the recommendations below to ensure a 
speedy and uneventful recovery.
Peripheral Angiography
Puncture Site Care
For one week:
•Do not take a tub bath, go swimming or use a Jacuzzi or hot 
tub.
•Use only mild soap and water to gently clean the area around 
the puncture site. 
•Gently pat the puncture site dry after showering. 
•Do not use powders, lotions, or ointments in the area of the 
puncture site. 

You may remove the bandage and shower the day after the 
procedure.  You may leave the bandage off. 
You may have a small bruise around the puncture site.  This is 
normal and will go away one-two weeks. 
Activity 
For the first 48 hours: 
•Do not drive for 48 hours after the procedure
For the first week:
•Do not lift, push , pull or carry anything heavier than 10 
pounds
•Do not do any exercises or activity that causes you to hold 
your breath or bear down with abdominal muscles.   Take care not 
to put strain on your abdominal muscles when coughing, sneezing, 
or moving your bowels.
After one week:
•You may go back to all your regular activities, including 
sexual activity.  We suggest you begin your exercise program at 
half of your usual routine for the first few days.   You may 
then gradually work back to your full routine.
Medications:
Before you leave the hospital, you will be given a list of all 
the medicine you should take at home.  If a medication that you 
normally take is not on the list or a medication that you do not 
take is on the list please discuss it with the team!  
For  Problems or Questions:
Call ___ in an emergency such as:
•Sudden, brisk bleeding or swelling at the groin puncture site 
that does not stop after applying pressure for ___ minutes
•Bleeding that is associated with nausea, weakness, or 
fainting.
Call the vascular surgery office (___) right away if 
you have any of the following. (Please note that someone is 
available 24 hours a day, 7 days a week)
•Swelling, bleeding, drainage, or discomfort at the puncture 
site that is new or increasing since discharge from the hospital
•Any change in sensation or temperature in your legs
•Fever of 101 or greater
•Any questions or concerns about recovery from your angiogram 

 
Followup Instructions:
___